US04366153
7-[2-(2-Formamidothiazol-4-yl)-2-allyloxyiminoacetamido]-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid (syn isomer, 2.7 g) was treated with conc. hydrochloric acid (0.94 g) in a similar manner to that of Example 1-(2) to give 7-[2-(2-aminothiazol-4-yl)-2-allyloxyiminoacetamido]-3-[1-(2-hydroxyethyl)-1H tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 2.72 g).

reactant | 7-[2-(2-Formamidothiazol-4-yl)-2-allyloxyiminoacetamido]-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 2.7 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CCO)SC2=NN=NN2)C(=O)O)C1=O)=NOCC=C | C20H21N9O7S3
reactant | hydrochloric acid | 0.94 g | Cl | ClH
product | 7-[2-(2-aminothiazol-4-yl)-2-allyloxyiminoacetamido]-3-[1-(2-hydroxyethyl)-1H tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid hydrochloride | 2.72 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CCO)SC2=NN=NN2)C(=O)O)C1=O)=NOCC=C | InChI=1S/C19H21N9O6S3.ClH/c1-2-5-34-25-11(9-7-36-18(20)21-9)14(30)22-12-15(31)28-13(17(32)33)8(6-35-16(12)28)10(3-4-29)37-19-23-26-27-24-19;/h2,7,10,12,16,29H,1,3-6H2,(H2,20,21)(H,22,30)(H,32,33)(H,23,24,26,27);1H/t10?,12?,16-;/m1./s1
